US06492402B1
To a cooled (0° C.) solution of 2-(N-Boc-aminomethyl)thiazole-4-carboxamide (200 mg, 0.78 mmol, see Angew. Chem. Int. Ed. Engl. 1996, 35,1503) in dichloromethane (7 mL) was added triethylamine (0.32 mL, 2.34 mmol) and acetic anhydride (0.22 mL, 1.56 mmol) and the mixture stirred for 1 h. After the solvent was removed, the residue was purified by column chromatography (EtOAc: n-hexane, 3:7). 2-(N-Boc-aminomethyl)thiazole-4-carbonitrile (150 mg, 0.627 mmol) thus obtained was dissolved in methanol (10 mL) and cooled to 0° C. To this was added dropwise acetylchloride (30 equivalent) and the mixture stirred for 1 h at rt. The solvent was removed in vacuo to give the title compound (90 mg, 81%).

reactant | 2-(N-Boc-aminomethyl)thiazole-4-carboxamide | 0.78 mmol, 200 mg | C(=O)(OC(C)(C)C)NCC=1SC=C(N1)C(=O)N | C10H15N3O3S
reactant | triethylamine | 2.34 mmol, 0.32 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 1.56 mmol, 0.22 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
product | 2-(N-Boc-aminomethyl)thiazole-4-carbonitrile | 0.627 mmol, 150 mg | C(=O)(OC(C)(C)C)NCC=1SC=C(N1)C#N | C10H13N3O2S
